US07947712B2
N-[2-(8-Hydroxyquinolin-7-yl)-1-phenylethyl]-2-phenoxyacetamide
To a stirring solution of the 2-[8-(benzyloxy)quinolin-7-yl]-1-phenylethanol (0.302 mmol) in phenoxyacetonitrile (9.05 mmol, 30 eq.) at −10° C. was dropwise added conc. sulfuric acid (1.51 mmol, 5.0 eq.). On completion of addition, the reaction mixture was allowed to warm to room temperature and was stirred 16 h. The reaction was then diluted with ice that was allowed to melt and was then stirred 2 h. The mixture was next brought to pH=7 by the addition of saturated aqueous sodium bicarbonate solution and then diluted with water (5 mL) and extracted with ethyl acetate (2×5 mL). The organic layers were combined, dried (MgSO4), filtered and concentrated to give sulfuric acid mono-{7-[2-(2-phenoxy-acetylamino)-2-phenyl-ethyl]-quinolin-8-yl}ester as a yellow oil that was purified by column chromatography using 20% methanol/dichloromethane. To a stirring suspension of the sulfuric acid mono-{7-[2-(2-phenoxy-acetylamino)-2-phenyl-ethyl]-quinolin-8-yl}ester (0.089 mmol, 1.0 eq.) from the initial step in methanol (9 mL) was added 3N HCl (18 mL) and the resulting suspension was heated to 55° C. and stirred 2 h. The reaction mixture was then cooled to room temperature and organic solvents were removed by rotary evaporation resulting in a precipitate that was filtered yielding the pure product as a yellow solid (0.059 mmol, 12% for 2 steps). HRMS: calcd for C25H22N2O3+H+, 399.17032; found (ESI-FTMS, [M+H]1+), 399.17059.

reactant | sulfuric acid mono-{7-[2-(2-phenoxy-acetylamino)-2-phenyl-ethyl]-quinolin-8-yl}ester | 0.089 mmol, 1.0 eq. | O(C1=CC=CC=C1)CC(=O)NC(CC1=CC=C2C=CC=NC2=C1OS(O)(=O)=O)C1=CC=CC=C1 | C25H22N2O6S
reactant | HCl | 3N, 18 mL | Cl | ClH
solvent | methanol | 9 mL | CO | CH4O
product | N-[2-(8-Hydroxyquinolin-7-yl)-1-phenylethyl]-2-phenoxyacetamide | 0.059 mmol, 12% | OC=1C(=CC=C2C=CC=NC12)CC(C1=CC=CC=C1)NC(COC1=CC=CC=C1)=O | C25H22N2O3
